US07989637B2
5-(3-Isopropyl-5-methyl-[1,2,4]triazol-4-yl)-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide was prepared from 5-(3-isopropyl-5-methyl-[1,2,4]triazol-4-yl)-4′-methyl-biphenyl-3-carboxylic acid and 1-pyrazin-2-yl-ethylamine using the procedure of step 4 of Example 6.

reactant | 5-(3-isopropyl-5-methyl-[1,2,4]triazol-4-yl)-4′-methyl-biphenyl-3-carboxylic acid | C(C)(C)C1=NN=C(N1C=1C=C(C=C(C1)C1=CC=C(C=C1)C)C(=O)O)C | C20H21N3O2
reactant | 1-pyrazin-2-yl-ethylamine | N1=C(C=NC=C1)C(C)N | C6H9N3
product | 5-(3-Isopropyl-5-methyl-[1,2,4]triazol-4-yl)-4′-methyl-biphenyl-3-carboxylic acid (1-pyrazin-2-yl-ethyl)-amide | N1=C(C=NC=C1)C(C)NC(=O)C=1C=C(C=C(C1)N1C(=NN=C1C)C(C)C)C1=CC=C(C=C1)C | C26H28N6O
